US05254558
To a solution of ethyl benzimidate hydrochloride (20 g) in methanol at 0° C. was added allyl amine. The resulting solution was allowed to stand for 2 days at 5° C. before it was evaporated to yield a solid which was collected and washed with ether to give N-allyl benzamidine hydrochloride (21.5 g) as a white solid; 300 MHz NMR: 10.1 (s,1), 9.68 (s,1), 9.29 (s,1), 7.72 (s,5), 5.92 (m,1), 5.35 (d,2), 5.26 (d,2), 4.14 (s,2).

reactant | ethyl benzimidate hydrochloride | 20 g | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | allyl amine | C(C=C)N | C3H7N
solvent | methanol | CO | CH4O
product | N-allyl benzamidine hydrochloride | 21.5 g | Cl.C(C=C)NC(C1=CC=CC=C1)=N | InChI=1S/C10H12N2.ClH/c1-2-8-12-10(11)9-6-4-3-5-7-9;/h2-7H,1,8H2,(H2,11,12);1H
